US07691843B2
To a stirred solution of 3-iodo-4,5-dimethoxybenzaldehyde (25.0 g, 85.6 mmol) in CH3CN (800 mL) at room temperature, was added a solution of sulfamic acid (10.65 g, 109 mmol) in H2O (135 mL). To this was added, dropwise, a solution of NaClO2 (12.65 g, 112 mmol) in H2O (135 mL) over 20 min period. After stirring for a further 30 min at room temperature, the solvent was removed in vacuo. The reaction was diluted with 1.0 M aqueous HCl (700 mL) and extracted with EtOAc (3×300 mL). The combined organic layers were washed with brine (600 mL), dried over Na2SO4 and concentrated in vacuo to give 3,4-dimethoxy-5-iodobenzoic acid (26 g). The product was used without further purification.

reactant | 3-iodo-4,5-dimethoxybenzaldehyde | 85.6 mmol, 25.0 g | IC=1C=C(C=O)C=C(C1OC)OC | C9H9IO3
reactant | sulfamic acid | 109 mmol, 10.65 g | S(N)(O)(=O)=O | H3NO3S
reactant | NaClO2 | 112 mmol, 12.65 g | [O-]Cl=O.[Na+]
solvent | CH3CN | 800 mL | CC#N | C2H3N
solvent | H2O | 135 mL | O | H2O
solvent | H2O | 135 mL | O | H2O
product | 3,4-dimethoxy-5-iodobenzoic acid | 26 g | COC=1C=C(C(=O)O)C=C(C1OC)I | C9H9IO4
